US08685969B2
5. 4-(3-(Benzyloxycarbonylamino)-2-methylphenyl)-7-(tetrahydrofuran-3-yloxy)-9H-pyrido[3,4-b]indole-1-carboxylic acid
To a solution of ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(tetrahydrofuran-3-yloxy)-9H-pyrido[3,4-b]indole-1-carboxylate (0.240 g, 0.424 mmol) in tetrahydrofuran (12 mL) and methanol (4 mL) at room temperature was added a solution of lithium hydroxide hydrate (0.071 g, 1.696 mmol) in water (2 mL). The resulting mixture was stirred at room temperature for 1.5 hr, and then concentrated under vacuum to almost dryness. To the residue was added water (8 mL), and the mixture was neutralized with 1N HCl to pH 4-5. The insoluble product (0.195 g, 0.363 mmol, 86% yield) was collected as a beige solid by suction filtration and dried over Drierite under vacuum.

reactant | ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(tetrahydrofuran-3-yloxy)-9H-pyrido[3,4-b]indole-1-carboxylate | 0.424 mmol, 0.240 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OC2COCC2)C(=O)OCC)C | C33H31N3O6
reactant | lithium hydroxide hydrate | 1.696 mmol, 0.071 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 4-(3-(Benzyloxycarbonylamino)-2-methylphenyl)-7-(tetrahydrofuran-3-yloxy)-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.363 mmol, 0.195 g, 86% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OC2COCC2)C(=O)O)C | C31H27N3O6
